US07786132B2
(i) 1-(5-Bromothiophen-2-ylsulfonyl)piperidine
Piperidine (0.72 g, 8.41 mmol) was added to a solution of 5-bromothiophene-2-sulfonyl chloride (2 g, 7.65 mmol) in tetrahydrofuran (100 mL) at 0° C. followed by triethylamine (0.93 g, 9.18 mmol) added slowly. The resulting mixture was stirred at rt overnight and 100 mL of brine was added. The mixture was extracted with ethyl acetate (3×100 mL). The combined organic layer was washed with brine (100 mL), dried over anhydrous sodium sulfate and filtered. Removal of the solvent gave the title compound as a slightly yellow solid (quantitative yield).

reactant | Piperidine | 8.41 mmol, 0.72 g | N1CCCCC1 | C5H11N
reactant | 5-bromothiophene-2-sulfonyl chloride | 7.65 mmol, 2 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | triethylamine | 9.18 mmol, 0.93 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 1-(5-Bromothiophen-2-ylsulfonyl)piperidine | BrC1=CC=C(S1)S(=O)(=O)N1CCCCC1 | C9H12BrNO2S2
